US04728654
Preparation of 6-[4-methoxyphenyl]-2-(1H)-quinolone
A solution of t-butyl lithium (9.0 cm3 of a 2.0M solution in n-pentane) was added at -70° to a stirred solution of 4-bromoanisole (1.13 cm3) in tetrahydrofuran (THF) (20 cm3) under nitrogen. After 10 minutes a solution of anhydrous zinc chloride (1.23 g) in THF (10 cm3) was added and the mixture was allowed to warm to room temperature over 0.5 hour. A mixture of 6-iodo-2-(1H)-quinolone (0.813 g) and tetrakis(triphenylphosphine) palladium (0) (0.03 g) was added and the mixture was heated under reflux for 2 hours. Volatile material was then removed in vacuo and the residue was partitioned between chloroform:methanol, 9:1 (100 cm3) and a solution of ethylenediaminetetraacetic acid disodium salt (7 g) in water (100 cm3). The aqueous phase was further extracted with chloroform:methanol, 9:1 (3×100 cm3), and the combined and dried (MgSO4) organic extracts were evaporated to give an oily solid which was triturated with ethyl acetate. Recrystallization of the residue from ethyl acetate-methanol-chloroform afforded the title compound, m.p. 262°-264° (0.359 g).

reactant | t-butyl lithium | C(C)(C)(C)[Li]
reactant | 4-bromoanisole | 1.13 cm3 | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | 6-iodo-2-(1H)-quinolone | 0.813 g | IC=1C=C2C=CC(NC2=CC1)=O | C9H6INO
solvent | n-pentane | CCCCC | C5H12
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
solvent | THF | 10 cm3 | O1CCCC1 | C4H8O
catalyst | zinc chloride | 1.23 g | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.03 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-[4-methoxyphenyl]-2-(1H)-quinolone | COC1=CC=C(C=C1)C=1C=C2C=CC(NC2=CC1)=O | C16H13NO2
